US08791129B2
6-[2-Amino-4-(isoindoline-2-carbonyl)quinazolin-6-yl]-1,3-benzodioxole-5-carbaldehyde
280 mg of 6-bromo-1,3-benzodioxole-5-carbaldehyde, 331 mg of potassium carbonate, 22 μl of water and 49 mg of [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride are added to a solution of 500 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 50 ml of ethanol under argon. The mixture is heated at 120° C. for 4 h; the hot mixture is filtered through kieselguhr, and the filtrate is evaporated. The residue obtained was triturated with 2 ml of acetonitrile, and the precipitate formed was filtered off with suction.

reactant | 6-bromo-1,3-benzodioxole-5-carbaldehyde | 280 mg | BrC=1C(=CC2=C(OCO2)C1)C=O | C8H5BrO3
reactant | potassium carbonate | 331 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 22 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 500 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride | 49 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-[2-Amino-4-(isoindoline-2-carbonyl)quinazolin-6-yl]-1,3-benzodioxole-5-carbaldehyde | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C=1C(=CC2=C(OCO2)C1)C=O | C25H18N4O4
